US04424230
Benzyl 6-(1-hydroxyethyl)-3-propylamino-1-azabicyclo[3.2.0]hept-2-en-7-one-2-carboxylate (30 mg) is dissolved in dioxane (2 ml) and water (1 ml) containing sodium bicarbonate (7.5 mg). 10% palladium on powdered charcoal (30 mg) is added and the resulting mixture is hydrogenated at 40 psi for 1 hr. The catalyst is filtered off and washed with water (3 ml). The combined filtrate is extracted with ethyl acetate (3×2 ml), conc. in vacuo, and lyophilized to afford sodium 6-(1-hydroxyethyl)-3-propylamino-1-azabicyclo[3.2.0]hept-2-en-7-one-2-carboxylate.

reactant | Benzyl 6-(1-hydroxyethyl)-3-propylamino-1-azabicyclo[3.2.0]hept-2-en-7-one-2-carboxylate | 30 mg | OC(C)C1C2CC(=C(N2C1=O)C(=O)OCC1=CC=CC=C1)NCCC | C19H24N2O4
reactant | water | 1 ml | O | H2O
reactant | sodium bicarbonate | 7.5 mg | C([O-])(O)=O.[Na+]
reactant | charcoal | 30 mg | C | CH4
solvent | dioxane | 2 ml | O1CCOCC1 | C4H8O2
catalyst | palladium | [Pd] | Pd
product | sodium 6-(1-hydroxyethyl)-3-propylamino-1-azabicyclo[3.2.0]hept-2-en-7-one-2-carboxylate | OC(C)C1C2CC(=C(N2C1=O)C(=O)[O-])NCCC.[Na+] | InChI=1S/C12H18N2O4.Na/c1-3-4-13-7-5-8-9(6(2)15)11(16)14(8)10(7)12(17)18;/h6,8-9,13,15H,3-5H2,1-2H3,(H,17,18);/q;+1/p-1
